US04478962
PREPARATION OF DIFURFURYL GLUTARATE
Furfuryl alcohol (196 parts, 2 moles ) and 160 parts (1 mole) of dimethyl glutarate were mixed, and 0.5-0.75 percent of sodium metal was added. The mixture was heated to a temperature in the range from 101°-115° C. under a nitrogen atmosphere. Methanol was evolved and removed as the reaction progressed. After a period of four hours, a waxy solid was obtained. After washing the product with water, the residue was a liquid which was identified as difurfuryl glutarate by gas chromatography and mass spectrometric analysis.

reactant | Furfuryl alcohol | 2 moles | C(C1=CC=CO1)O | C5H6O2
reactant | dimethyl glutarate | 1 mole | C(CCCC(=O)OC)(=O)OC | C7H12O4
reactant | sodium | [Na] | Na
solvent | Methanol | CO | CH4O
product | DIFURFURYL GLUTARATE | C(CCCC(=O)OCC1=CC=CO1)(=O)OCC1=CC=CO1 | C15H16O6
